US06080870
Step B: 1-Trityl-4-iodo-5-methylimidazole
To a cold (0° C.) solution of 4-iodo-5-methylimidazole (5.0 g, 24.0 mmol) and triethylamine (5.0 mL, 36.0 mmol) in CH2Cl2 (100 mL) and 1,4-dioxane (50 mL) was added trityl chloride (8.0 g, 29.0 mmol). The resultant mixture was stirred for 2 hours and quenched with ice and extracted with diethyl ether. The organic extracts were washed with sat. aq. NaHCO3, dried (K2CO3) and the solvent evaporated in vacuo. The product mixture was concentrated onto silica gel and chromatographed (Silica gel, 30-50% EtOAc in hexanes) to afford the title compound as a pale yellow powder.

reactant | 4-iodo-5-methylimidazole | 24.0 mmol, 5.0 g | IC=1N=CNC1C | C4H5IN2
reactant | triethylamine | 36.0 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 29.0 mmol, 8.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-Trityl-4-iodo-5-methylimidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1C)I | C23H19IN2
